US07022733B2
2-(2,5-Dimethoxy-phenyl)-1-(4-methoxy-phenyl)ethanone 74
To a cooled solution (0° C.) of anisole (1.3 g, 12.4 mmol) and (2,5-Dimethoxyphenyl)acetyl chloride (2.2 g, 10.3 mmol) in dichloroethane (30 ml) was added AlCl3 (1.6 g, 12.4 mmol) and the reaction was stirred for thirty minutes. The reaction was then quenched with 2N HCl and the organic layer was then separated, dried, and concentrated. The resulting oil was taken up into MeOH and a solid crystallized which was collected by filtration to give a white solid (1.7 g, 58%): Mp=108–111° C.; 1H NMR (CDCl3) δ 8.01 (d, 2 H, J=9.0 Hz), 6.92 (d, 2 H, J=8.8 Hz), 6.80–6.70 (m, 3 H), 4.20 (s, 2 H), 3.86 (s, 3 H), 3.75 (s, 3 H), 3.74 (s, 3 H); MS 287 (M+H)+

reactant | anisole | 12.4 mmol, 1.3 g | C1(=CC=CC=C1)OC | C7H8O
reactant | (2,5-Dimethoxyphenyl)acetyl chloride | 10.3 mmol, 2.2 g | COC1=C(C=C(C=C1)OC)CC(=O)Cl | C10H11ClO3
reactant | AlCl3 | 12.4 mmol, 1.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | 2-(2,5-Dimethoxy-phenyl)-1-(4-methoxy-phenyl)ethanone | 1.7 g, 58% | COC1=C(C=C(C=C1)OC)CC(=O)C1=CC=C(C=C1)OC | C17H18O4
